US09315490B2
336a) (R)-tert-Butyl (1-(1H-indole-6-carbonyl)pyrrolidin-3-yl)carbamate
EDCxHCl (17.7 g, 93.00 mmol, 1.5 eq), 1-hydroxy-7-azabenzotriazole (4.2 g, 31.01 mmol, 0.5 eq) followed by triethylamine (28.7 mL, 204 mmol, 3.3 eq) were added at room temperature to a stirred solution of 1H-indole-6-carboxylic acid (10 g, 62.03 mmol, 1.0 eq) in dry DMF (50 mL). (R)-tert-butyl pyrrolidin-3-ylcarbamate (13.86 g, 74.44 mmol, 1.2 eq) was added after 10 min and stirring was continued for 16 h at room temperature. The reaction mixture was diluted with icy water (100 mL), and the precipitating solid was filtered off, washed with water (50 mL) and pet ether (50 mL), and dried under vacuum. White solid. Yield: 11.0 g (55% of theory)

reactant | 1-hydroxy-7-azabenzotriazole | 31.01 mmol, 4.2 g, 0.5 eq | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | triethylamine | 204 mmol, 28.7 mL, 3.3 eq | C(C)N(CC)CC | C6H15N
reactant | 1H-indole-6-carboxylic acid | 62.03 mmol, 10 g, 1.0 eq | N1C=CC2=CC=C(C=C12)C(=O)O | C9H7NO2
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | 74.44 mmol, 13.86 g, 1.2 eq | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | (R)-tert-Butyl (1-(1H-indole-6-carbonyl)pyrrolidin-3-yl)carbamate | N1C=CC2=CC=C(C=C12)C(=O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C18H23N3O3
